US05905071
11d N-[2-(N-Carbobenzoxy-glycyl-L-alanyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-dodecyl-dodecanamide.
from N-(2-L-alanyl-amino-2-deoxy-β-D-glucopyranosyl)-N-dodecyl-dodecanamide and N-carbobenzoxy-glycine.

reactant | N-(2-L-alanyl-amino-2-deoxy-β-D-glucopyranosyl)-N-dodecyl-dodecanamide | N[C@@H](C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCC)N | C33H65N3O6
reactant | N-carbobenzoxy-glycine | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
product | N-[2-(N-Carbobenzoxy-glycyl-L-alanyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-dodecyl-dodecanamide | C(=O)(OCC1=CC=CC=C1)NCC(=O)N[C@@H](C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCC)N | C43H74N4O9
